Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo M with history of mild asthma treated with albuterol PRN, 
presented to his PCPs office today with shortness of breath and 
wheezing over the last 3 days. He first noticed a non productive 
cough, steadily worsening over the last 10 days. In the last 
three days he has noticed wheezing, dyspnea on exertion and 
decreased exercise tolerance. He typically rarely uses his 
albuterol, but over the last three days, he has been useing ___ 
times/day. No congestion, sneezing or sinus symptoms. Denies 
fever/chills. He went to see his PCP and in the office his O2 
sat was 90% at rest and 80% with ambulation. He was sent from 
the office to the ED for hypoxia.  
.  
On arrival in the ED, initial VS were: T 97.6 P 82 BP 169/81 R 
16 O2 sat. 94/RA. PEFR 150. He was given solumedrol 125mg IV x 
1, combivent nebs and levofloxacin 750mg IV x 1. PEFR after 
treatment was 300. A Chest X-ray was suggestive of RLL 
pneumonia.  
On transfer P 87 BP 130/80 R 23 O2 sat. 95/RA  

 
Past Medical History:
Asthma  
Melanoma - s/p three surgeries  
Hypertension  

 
Social History:
___
Family History:
Mother and sister with asthma. Father and uncle with aortic 
aneurysm. Father had CABG x 4. 
 
Physical Exam:
Vitals: T: 96.9 BP: 142/78 P: 60 R: 22 O2: 97/RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Wheezing bilaterally, worse in lower fields.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: intact  
Neuro: AAO x 3, CN II-XII intact, stength and sensation grossly 
normal bilaterally, no facial asymmetry, speech fluent, no 
pronator drift. 

 
Pertinent Results:
___ 05:45PM BLOOD WBC-12.1* RBC-4.96 Hgb-14.3 Hct-42.4 
MCV-86 MCH-28.8 MCHC-33.6 RDW-13.5 Plt ___
___ 05:48AM BLOOD WBC-23.8*# RBC-4.78 Hgb-13.5* Hct-41.2 
MCV-86 MCH-28.3 MCHC-32.8 RDW-13.6 Plt ___
___ 04:50AM BLOOD WBC-20.5* RBC-4.80 Hgb-13.6* Hct-42.0 
MCV-88 MCH-28.5 MCHC-32.5 RDW-14.0 Plt ___
___ 05:45AM BLOOD WBC-12.6* RBC-4.51* Hgb-13.1* Hct-38.7* 
MCV-86 MCH-29.0 MCHC-33.8 RDW-13.6 Plt ___
___ 05:45PM BLOOD Glucose-116* UreaN-13 Creat-1.0 Na-140 
K-3.7 Cl-100 HCO3-30 AnGap-14
___ 05:48AM BLOOD Glucose-130* UreaN-16 Creat-0.9 Na-142 
K-3.9 Cl-101 HCO3-25 AnGap-20
___ 04:50AM BLOOD Glucose-105 UreaN-19 Creat-0.9 Na-142 
K-4.0 Cl-102 HCO3-24 AnGap-20
___ 05:45AM BLOOD Glucose-91 UreaN-19 Creat-0.9 Na-141 
K-3.8 Cl-103 HCO3-28 AnGap-14
.
CXR:
PA AND LATERAL VIEWS OF THE CHEST: A vague opacity overlying the 
posterior 
right diaphragm, best seen on the lateral view may represent an 
early 
pneumonia. There is no pneumothorax or pleural effusion. There 
is no 
evidence of congestive heart failure. Heart, mediastinum and 
hila are normal. 
  
IMPRESSION: Possible right lower lobe early pneumonia. Clinical 
correlation is recommended. 
.
ECG:
Sinus rhythm. Normal tracing. No previous tracing available for 
comparison.  
Rate PR QRS QT/QTc P QRS T 
69 184 90 416/431 41 -13 55 
 

 
Brief Hospital Course:
#. Pneumonia/Asthma Exacerbation.  On admission, patient was 
short of breath and had diffuse bilateral wheezes on exam.  He 
was placed on supplemental oxygen by nasal cannula, treated with 
prednisone 60mg PO daily, standing albuterol and ipratropium 
nebulizer treatments and levofloxacin 750mg PO daily.  Peak 
expiratory flow was checked every eight hours.  By ___, his 
peak flow had improved to 650 cc/sec, but he still required 
supplemental oxygen, with an ambulatory saturation of 90% on 
room air.  By ___, he had an oxygen saturation of 95% on 
room air, with an ambulatory saturation on 93%. His wheezing was 
substantially reduced and symptomatically improved.  He was 
discharged with one more day of levofloxacin, a prednisone 
taper, and ___ nebulizer treatments.  Patient was counseled to 
stop smoking.  Follow up was arranged with Dr. ___ PCP ___ 
___.
.
#. Hypertension.  Patient was treated with his ___ hypertensive 
regimen of hydrochlorothiazide, amlodipine and lisinopril with 
excellent control of SBP 110-120 throughout his stay.

 
Medications on Admission:
Lisinopril 40mg PO daily  
Hydrochlorathiazide 25mg PO daily  
Amlodipine 5mg PO daily  

 
Discharge Medications:
1. Prednisone 10 mg Tablet Sig: Tapered dosing PO once a day for 
5 days: 50 mg (5 tablets) for 1 day, then 40 mg (4 tablets) for 
1 day, then 30 mg (3 tablets) for 1 day, then 20 mg (2 tablets) 
for one day, then 10 mg (1 tablet) for 1 day, then stop.
.
Disp:*15 Tablet(s)* Refills:*0*
2. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO once a day 
for 1 days: 5 day course.  Started ___.
Disp:*1 Tablet(s)* Refills:*0*
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puff Inhalation every six (6) hours as needed for shortness 
of breath or wheezing.
Disp:*1 unit* Refills:*2*
5. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) Nebulizer Inhalation every ___ hours 
as needed for shortness of breath or wheezing for 5 days.
Disp:*30 units* Refills:*1*
6. Dextromethorphan-Guaifenesin ___ mg/5 mL Syrup Sig: ___ 
MLs PO Q6H (every 6 hours) as needed for cough for 5 days.
Disp:*QS ML(s)* Refills:*0*
7. Nebulizer 
Please provider ___ for acute asthma exacerbation.  
Patient to use ___ times daily over next several days.
8. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
9. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
___
 
Discharge Diagnosis:
Primary: Asthma exacerbation, community acquired pneumonia.
Secondary: Hypertension

 
Discharge Condition:
Hemodynamically stable and afebrile with improved breathing.

 
Discharge Instructions:
You were admitted with shortness of breath likely due to asthma 
and pneumonia.  You were treated with steroids, nebulizers and 
antibiotics.  Once your peak flows, oxygen saturation and 
breathing had improved you were discharged ___. 

Please keep all outpatient appointments.  

Please stop smoking.

The following changes have been made to your medications:
- Please start a prednisone taper.  This means you will take a 
lower dose of prednisone every day.  Take 50mg for one day, then 
40mg for one day, the 30mg for one day, then 20mg for one day, 
then 10mg for one day, then stop.
- Please use albuterol nebulizers every ___ hours as needed for 
wheezing.

Please adhere to your follow-up appointments. They are important 
for managing your long-term health.
.
Please return to the hospital or call your doctor if you have 
temperature greater than 101, shortness of breath, worsening 
difficulty with swallowing, chest pain, abdominal pain, 
diarrhea, or any other symptoms that you are concerned about.

 
Followup Instructions:
___